US06649608B2
4-Anilino-5-bromo-2-(3-carboxyanilino)pyrimidine
Using an analogous method to that described in Method 1, but starting from 4-anilino-5-bromo-2-chloropyrimidine and 3-aminobenzoic acid, the product was obtained. NMR: 7.2-7.4 (m, 4H), 7.55-7.6 (m, 3H), 7.8 (dd, 1H), 7.95 (s, 1H), 8.4 (s, 1H), 9.3 (br s, 1H), 10.2 (br s 1H); MS (MH+): 385, 387.

reactant | 4-anilino-5-bromo-2-chloropyrimidine | N(C1=CC=CC=C1)C1=NC(=NC=C1Br)Cl | C10H7BrClN3
reactant | 3-aminobenzoic acid | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
product | 4-Anilino-5-bromo-2-(3-carboxyanilino)pyrimidine | N(C1=CC=CC=C1)C1=NC(=NC=C1Br)NC1=CC(=CC=C1)C(=O)O | C17H13BrN4O2
